US07728031B2
2-(5-(4-((3aR,6aS)-5-Methylhexahydropyrrolo[3,4-b]pyrrol-1(2H)-yl)phenyl)pyridin-2-yl)pyridazin-3(2H)-one
(3aR,6aR)-5-Methyl-1-(4-(4,4,5,5-tetramethyl-1,3-dioxaborolan-2-yl)phenyl)octa-hydro-pyrrolo[3,4-b]pyrrole (50 mg, 0.15 mmol), 2-(5-bromopyridin-2-yl)pyridazin-3(2H)-one (42 mg, 0.17 mmol), Pd(PPh3)2Cl2 (11 mg, 0.01 mmol), 2-(dicyclohexylphosphino)biphenyl (5.6 mg, 0.016 mmol) and Na2CO3 (1M, 225 μL) were placed in a microwave tube, purged with N2 and a mixture of solvents (EtOH:dioxane=1:1, 1 mL) was added. The mixture was heated to 140° C. in a microwave reactor for 15 minutes, cooled to ambient temperature, was filtered, and concentrated under reduced pressure. The residue was purified via chromatography (SiO2, 0-10% MeOH in CH2Cl2) to provide the title compound, 1H NMR (300 MHz, CDCl3): δ=8.82 ppm (d, J=2.8 Hz, 1H), 7.98 (m, 2H), 7.73 (d, J=8.2 Hz, 1H), 7.52 (m, 2H), 7.28 (dd, J=10.1, 3.7 Hz, 1H), 7.09 (dd, J=10.1, 1.7 Hz, 1H), 6.67 (m, 2H), 4.39 (m, 1H), 3.66 (m, 1H), 3.30 (m, 3H), 2.87 (m, 2H), 2.59 (s(br), 3H), 2.23 (m, 2H), 2.05 (m, 1H). MS (ESI, M+1): 374.2.

reactant | (3aR,6aR)-5-Methyl-1-(4-(4,4,5,5-tetramethyl-1,3-dioxaborolan-2-yl)phenyl)octa-hydro-pyrrolo[3,4-b]pyrrole | 0.15 mmol, 50 mg | CN1C[C@@H]2N(CC[C@@H]2C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H29BN2O2
reactant | 2-(5-bromopyridin-2-yl)pyridazin-3(2H)-one | 0.17 mmol, 42 mg | BrC=1C=CC(=NC1)N1N=CC=CC1=O | C9H6BrN3O
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.016 mmol, 5.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | Na2CO3 | 1M, 225 μL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)2Cl2 | 0.01 mmol, 11 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(5-(4-((3aR,6aS)-5-Methylhexahydropyrrolo[3,4-b]pyrrol-1(2H)-yl)phenyl)pyridin-2-yl)pyridazin-3(2H)-one | CN1C[C@H]2N(CC[C@@H]2C1)C1=CC=C(C=C1)C=1C=CC(=NC1)N1N=CC=CC1=O | C22H23N5O
